US07670591B2
(a) N-(2-Hydroxy-4-methoxyphenyl)-6-(methylamino)nicotinamide
6-Chloro-N-(2-hydroxy-4-methoxyphenyl)nicotinamide (0.40 g, 1.44 mol) was mixed with a solution of 8M methylamine in methanol (4 mL) and heated in a microwave reactor at 250° C. for 10 minutes. The solvent was evaporated in vacuo and the residue was partitioned between water and ethyl acetate. The aqueous layer was extracted five timed with ethyl acetate The pooled organics were dried (MgSO4), filtered and evaporated. The solid was titurated with CH2Cl2, filtered and dried, giving the title compound (0.25 g) as a solid. 1H NMR δ ppm 9.73 (s, 1H) 9.38 (s, 1H) 8.65 (d, 1H) 7.92 (dd, 1H) 7.33 (d, 1H) 7.16 (d, 1H) 6.24-6.58 (m, 3H) 3.70 (s, 3H) 2.83 (d, 3H); MS m/z (M+H) 274; (M−H) 272.

reactant | 6-Chloro-N-(2-hydroxy-4-methoxyphenyl)nicotinamide | 1.44 mol, 0.40 g | ClC1=NC=C(C(=O)NC2=C(C=C(C=C2)OC)O)C=C1 | C13H11ClN2O3
reactant | methylamine | 8M | CN | CH5N
solvent | methanol | 4 mL | CO | CH4O
product | N-(2-Hydroxy-4-methoxyphenyl)-6-(methylamino)nicotinamide | 0.25 g | OC1=C(C=CC(=C1)OC)NC(C1=CN=C(C=C1)NC)=O | C14H15N3O3
